US07199147B2
Methanol (20 ml) was added to a solution of dimethyl 2,5-dimethylterephthalate (3.95 g, 17.8 mmol) in tetrahydrofuran (40 ml) and the resulting mixture was cooled on a water bath. A 2N-aqueous lithium hydroxide solution (9.8 ml, 19.6 mmol) was slowly added thereto and stirred for 3 hours. The solvent was distilled off under reduced pressure and the residue was adjusted to pH 1 to 2 with a 1N-hydrochloric acid and extracted with ethyl acetate (×3). The extract solution was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by a silica gel chromatography (eluent: chloroform/methanol=30/1) to obtain 4-(methoxycarbonyl)-2,5-dimethylbenzoic acid (2.77 g, 75%).

reactant | Methanol | 20 ml | CO | CH4O
reactant | dimethyl 2,5-dimethylterephthalate | 17.8 mmol, 3.95 g | CC1=C(C(=O)OC)C=C(C(=C1)C(=O)OC)C | C12H14O4
reactant | lithium hydroxide | 19.6 mmol, 9.8 ml | [OH-].[Li+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(methoxycarbonyl)-2,5-dimethylbenzoic acid | 2.77 g, 75% | COC(=O)C1=CC(=C(C(=O)O)C=C1C)C | C11H12O4
